US05196439
2-(4-Methylpiperidinyl)-2'-acetonaphthone hydrochloride
2.5 g of 2-bromo-2'-acetonaphthone, 1 g of methylpiperdine, 0.1 g of potassium iodide, and 3.1 g of triethylamine were added to 100 ml of ethanol. The mixture was refluxed for 20 min. The solvent was distilled off, and dichloromethane was added to the residue. The mixture was washed with water and dried. The dichloromethane was distilled off, and the residue was purified by column chromatography (silica gel) to prepare an oleaginous and oily intended compound. The compound was converted into a hydrochloride by an oridinary method and then recrystallized to prepare 1.87 g of an intended hydrochloride.

reactant | 2-bromo-2'-acetonaphthone | 2.5 g | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
reactant | methylpiperdine | 1 g | CN1CCCCC1 | C6H13N
reactant | potassium iodide | 0.1 g | [I-].[K+]
reactant | hydrochloride | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | triethylamine | 3.1 g | C(C)N(CC)CC | C6H15N
product | 2-(4-Methylpiperidinyl)-2'-acetonaphthone hydrochloride | Cl.CC1CCN(CC1)CC(=O)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C18H21NO.ClH/c1-14-8-10-19(11-9-14)13-18(20)17-7-6-15-4-2-3-5-16(15)12-17;/h2-7,12,14H,8-11,13H2,1H3;1H
